US06860928B2
A mixture of 1,3-bis(4-nitrophenoxy)-2,2-bis[(4-nitrophenoxy)methyl]propane (15.43 grams, 24.87 mmol; prepared as described in Part B of this Example) and Pd/C 10% (1.58 grams, obtained from Aldrich Chemical Co.) was stirred for 70 hours in tetrahydrofuran (400 milliliters) under 180 pounds per square inch of hydrogen gas. The mixture was then filtered over CELITE; and the solvent was removed by evaporation under reduced pressure. The residue was recrystallized from nitrobenzene/benzene to afford pure 1,3-bis(4-aminophenoxy)-2,2-bis [(4-aminophenoxy)methyl]propane (11.17 grams, 22.31 mmol, 90 percent yield) as small light brown crystals: mp 210-211° C.; IR (KBr) 3434, 3351, 3050, 2932, 1625, 1511, 1467, 1232, 1041, 1172, 831, 523 cm−1; 1H NMR (400 MHz, DMSO-d6) δ6.66 (d, 8H, 3J=8.4 Hz), 6.47 (d, 8H, 3J=8.4 Hz), 4.62 (s, 8H), 4.03 (s, 8H); 13C NMR (100 MHz, DMSO-d6) δ150.14, 142.73, 115.76, 114.86. 67.06, 44.59; MS (FAB, 3-nitrobenzyl alcohol) m/e 500.3; Anal. Calcd for C33H24N4O4: C, 69.58; H, 6.44; N, 11.19. Found: C, 69.33; H, 6.78; N, 10.91.

reactant | 1,3-bis(4-nitrophenoxy)-2,2-bis[(4-nitrophenoxy)methyl]propane | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])(COC2=CC=C(C=C2)[N+](=O)[O-])COC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C29H24N4O12
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 400 milliliters | O1CCCC1 | C4H8O
catalyst | Pd/C | 1.58 grams | [Pd] | Pd
product | 1,3-bis(4-aminophenoxy)-2,2-bis [(4-aminophenoxy)methyl]propane | 22.31 mmol, 11.17 grams, 90 percent yield | NC1=CC=C(OCC(COC2=CC=C(C=C2)N)(COC2=CC=C(C=C2)N)COC2=CC=C(C=C2)N)C=C1 | C29H32N4O4
